US09212135B2
A mixture of 2-bromothiophenol (0.99 g, 5.0 mmol), ethyl 2-bromobutyrate (1.17 g, 6.0 mmol) and K2CO3 (0.966 g, 7.0 mmol) in DMF (2 mL) was stirred at room temperature for 2 hours. Ethyl acetate was added and the organic phase washed with brine, dried (MgSO4), concentrated and purified by chromatography to yield ethyl 2-(2-bromophenylthio)-2-methylpropanoate (1.34 g, 84%).

reactant | 2-bromothiophenol | 5.0 mmol, 0.99 g | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | ethyl 2-bromobutyrate | 6.0 mmol, 1.17 g | BrC(C(=O)OCC)CC | C6H11BrO2
reactant | K2CO3 | 7.0 mmol, 0.966 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(2-bromophenylthio)-2-methylpropanoate | 1.34 g, 84% | BrC1=C(C=CC=C1)SC(C(=O)OCC)(C)C | C12H15BrO2S
